US05645610
3 g (15 mmol) of 2-(2'-hydroxyethyl)amino-4-nitro-5-methoxytoluene were hydrogenated using a catalytic amount of Palladium/Carbon (5% Pd) in 100 ml absolute ethanol. After filtration of the catalyst the solvent was completely distilled away and the green crystals were recrystallized from methanol. 2.2 g (83% of the theoretical yield) of the 4-amino-2-(2'-hydroxyethyl)amino-5-methoxytoluene were obtained and melted at 148° C.

reactant | 2-(2'-hydroxyethyl)amino-4-nitro-5-methoxytoluene | 15 mmol, 3 g | OCCNC1=C(C=C(C(=C1)[N+](=O)[O-])OC)C | C10H14N2O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Palladium/Carbon | [Pd] | Pd
product | 4-amino-2-(2'-hydroxyethyl)amino-5-methoxytoluene | NC1=CC(=C(C=C1OC)C)NCCO | C10H16N2O2
